US08871187B2
3.1 ml (6.1 mmol) of a 2M solution of isopropylmagnesium chloride in tetrahydrofuran are added to a solution of 1.1 g (6.2 mmol) of 1-bromo-2-fluorobenzene in 4 ml of tetrahydrofuran, cooled beforehand to −25° C. After stirring for 30 minutes at −25° C., a solution of 0.65 g (3.7 mmol) of 3-oxo-1-(tert-butoxycarbonyl)azetidine in 7.5 ml of tetrahydrofuran is added. The reaction medium is stirred for 30 min and then a saturated aqueous solution of ammonium chloride is added. The organic compounds are extracted with a 1/1 heptane/ethyl acetate mixture. The organic phase is dried over magnesium sulphate and then filtered and evaporated. The crude product is purified by silica gel chromatography, elution being carried out with a 5/5 heptane/ethyl acetate mixture. 135 mg of 3-(2-fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)-azetidine are obtained in the form of a white solid with a yield of 14%.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 1-bromo-2-fluorobenzene | 6.2 mmol, 1.1 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | 3-oxo-1-(tert-butoxycarbonyl)azetidine | 3.7 mmol, 0.65 g | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | 3-(2-fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)-azetidine | 135 mg, yield of 14% | FC1=C(C=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C14H18FNO3
